** sch_path: /foss/designs/BTDay5-Ex/Ex4_6_Lecture5.sch
**.subckt Ex4_6_Lecture5
XM1 net3 VIN net1 VSS sg13_lv_nmos w=4u l=1u ng=1 m=2 mm_ok=1
XM2 net2 VIP net1 VSS sg13_lv_nmos w=4u l=1u ng=1 m=2 mm_ok=1
XM3 net1 VCMFBG VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=4 mm_ok=1
VDD VDD VSS 1.2
VIN VIN VSS DC 0.8 Ac -0.5
VIP VIP VSS DC 0.8 Ac +0.5
VSS VSS GND 0
XM4 net3 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM7 VB2 VB2 VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XM8 VB2 VBIAS VDD VDD sg13_lv_pmos w=2u l=6u ng=1 m=1 mm_ok=1
XM10 net2 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
VB2 VBIAS VSS 0.65
XM5 VOP VB2 VSS VSS sg13_lv_nmos w=1u l=1u ng=1 m=1 mm_ok=1
XM11 VOP net2 VDD VDD sg13_lv_pmos w=4u l=1u ng=1 m=1 mm_ok=1
C2 VOP net4 0.4p
R1 net4 net2 150k
XM9 VON VB2 VSS VSS sg13_lv_nmos w=1u l=1u ng=1 m=1 mm_ok=1
C3 net5 VON 0.4p
R2 net3 net5 150k
XM12 VB1 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=1 mm_ok=1
XM13 VB1 VB2 VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
XM6 VON net3 VDD VDD sg13_lv_pmos w=4u l=1u ng=1 m=1 mm_ok=1
XM14 net7 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM15 net6 VB1 VDD VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM16 VCMFBG VOP net6 VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM17 VCMFBL VCM net6 VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM18 VCMFBL VCM net7 VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM19 VCMFBG VON net7 VDD sg13_lv_pmos w=8u l=1u ng=1 m=2 mm_ok=1
XM20 VCMFBL VCMFBL VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=4 mm_ok=1
XM21 VCMFBG VCMFBG VSS VSS sg13_lv_nmos w=4u l=1u ng=1 m=4 mm_ok=1
VSS1 VCM GND 0.6
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt




.control
op
print v(vop) v(von) v(vdd)

ac dec 100 10 100Meg
let aps = v(vop)
plot db(aps) xlog title v(vop)

**** end user architecture code
**.ends
.GLOBAL GND
.end
